US04810800
2-Cyano-1-(3-thienylmethyl)-1H-imidazole
In a 250 ml, 4-neck flask equipped with a nitrogen bubbler, gas inlet tube, thermometer and septum, add 100 ml acetonitrile and bubble cyanogen chloride (15 g, 0.24 mol) into the acetonitrile. Cool the solution in an ice bath and add 8.2 (0.05 mol) 1-(3-thienylmethyl)-1H-imidazole. After the colorless solution turns yellow-orange and about 1 hour after an orange precipitate forms, cool the slurry to -20° C., slowly add 42 ml (0.3 mol) of triethylamine, holding the temperature below 0° C. After 1 hour at room temperature, pour the reaction onto 600 ml saturated NaHCO3 and extract with ether (3×150 ml). Dry and combine organic layers to obtain tan oil. The oil is purified via Kugelrohr distillation to obtain a colorless oil.

reactant | cyanogen chloride | 0.24 mol, 15 g | N#CCl | CClN
reactant | 1-(3-thienylmethyl)-1H-imidazole | S1C=C(C=C1)CN1C=NC=C1 | C8H8N2S
reactant | triethylamine | 0.3 mol, 42 ml | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | 600 ml | C(=O)(O)[O-].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 2-Cyano-1-(3-thienylmethyl)-1H-imidazole | C(#N)C=1N(C=CN1)CC1=CSC=C1 | C9H7N3S
